US06713602B1
N-(Carbamoylmethyl)-N-(thymin-1-ylacetyl)-β-alanine Ethyl Ester
DhbtOH (9.37 g, 57.4 mmol), N1-thyminyl acetic acid (10.57 g, 57.4 mmol) and CH2Cl2 (100 mL) were added to a solution of N-(carbamoylmethyl)-β-alanine ethylester (10.0 g, 57.4 mmol) in dry DMF (100 mL). The solution was cooled to 0° C. in an ice bath and a solution of DCC (1.90 g, 9.18 mmol) in DMF/CH2Cl2 (100 mL, 1:1 v/v) was added dropwise within 20 minutes. The ice bath was removed and after stirring for 1 hour at room temperature. The reaction mixture was filtered and the precipitate (DCU) was rinsed with CH2Cl2 (50 mL). The organic solution and the CH2Cl2 rinse were combined. A colorless precipitate formed overnight which was filtered and rinsed with CH2Cl2. The precipitate was dried in vacuo to give 12.0 g (61%) (mp 207-208° C.) of the title compound.

reactant | N1-thyminyl acetic acid | 57.4 mmol, 10.57 g | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
reactant | N-(carbamoylmethyl)-β-alanine ethylester | 57.4 mmol, 10.0 g | C(C)OC(CCNCC(N)=O)=O | C7H14N2O3
reactant | DCC | 9.18 mmol, 1.90 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF CH2Cl2 | 100 mL | CN(C)C=O.C(Cl)Cl
product | N-(Carbamoylmethyl)-N-(thymin-1-ylacetyl)-β-alanine Ethyl Ester | 12.0 g, 61% | C(C)OC(CCN(C(CN1C(=O)NC(=O)C(C)=C1)=O)CC(N)=O)=O | C14H20N4O6
